US07772244B2
tert-Butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate
Sodium hydride (60% in mineral oil, 4.8 g, 120 mmol) was washed with hexanes and then suspended in N,N-dimethylformamide (100 mL). The mixture was cooled to 0° C. Trimethyl phosphonoacetate (17.0 mL, 111 mmol) was added to the mixture dropwise. The reaction was held at 0° C. for 45 minutes. A solution of N-tert-butoxycarbonyl-4-piperidone (18.5 g, 92.6 mmol) in N,N-dimethylformamide (25 mL) was added to the reaction mixture dropwise. The mixture was held at 0° C. for 1 h and then warmed to room temperature where it was held for 1 h. The reaction was quenched with 1 N hydrochloric acid. The mixture was extracted with diethyl ether (2×). Combined organic layers were washed with water (2×), then brine. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in 1:1 ethyl acetate/methanol (60 mL). A catalytic amount of palladium (10% on charcoal) was added to the mixture. The reaction vessel was placed on a Parr apparatus, charged with 55 psi of hydrogen, and shaken at room temperature for 18 h. The reaction mixture was removed from the Parr apparatus and filtered. The filtrate was concentrated in vacuo to give the title compound as lightly colored oil in 94% yield. 1H NMR (300 MHz, CDCl3): δ 4.04 (d, J=10.25, 2H), 3.64 (s, 3H), 2.68 (t, J=14.44, 2H), 2.21 (d, J=6.95, 2H), 1.99-1.80 (m, 1H), 1.64 (d, J=13.54, 2H), 1.41 (s, 9H), 1.25-1.03 (m, 2H).

reactant | Sodium hydride | 120 mmol, 4.8 g | [H-].[Na+]
reactant | Trimethyl phosphonoacetate | 111 mmol, 17.0 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | N-tert-butoxycarbonyl-4-piperidone | 92.6 mmol, 18.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | 94% yield | COC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
